US07018988B2
(2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl)-N-[(1RS)-2-hydroxy-1-methylethyl]-4-(methoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, [1,1′-biphenyl]-4-carbonyl chloride, and (2RS)-2-amino-1-propanol, the title compound was obtained in 81% purity by HPLC. MS(ESI+): m/z=396.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | [1,1′-biphenyl]-4-carbonyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | (2RS)-2-amino-1-propanol | NC(CO)C | C3H9NO
product | (2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl)-N-[(1RS)-2-hydroxy-1-methylethyl]-4-(methoxyimino)-2-pyrrolidinecarboxamide | C1(=CC=C(C=C1)C(=O)N1[C@@H](CC(C1)=NOC)C(=O)NC(CO)C)C1=CC=CC=C1 | C22H25N3O4
